US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-methyl-1H-pyrazol-5-yl)isoxazole-3-carboxamide was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.69 mmol) and 5-(1-methyl-1H-pyrazol-5-yl)isoxazole-3-carboxylic acid (173 mg, 0.898 mmol). The product was purified by triturated using acetonitrile and methanol. Yield 28.2%. 1H-NMR (400 MHz; DMSO): δ 1.19 (d, 3H), 4.06 (s, 3H), 4.35 (d, 2H), 4.43-4.57 (m, 1H), 6.91 (d, 1H), 6.96 (d, 1H), 7.20 (s, 1H), 7.59 (d, 1H), 7.85 (d, 1H), 7.93 (dd, 1H), 7.97 (d, 1H), 8.09 (d, 1H), 8.94 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.69 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 5-(1-methyl-1H-pyrazol-5-yl)isoxazole-3-carboxylic acid | 0.898 mmol, 173 mg | CN1N=CC=C1C1=CC(=NO1)C(=O)O | C8H7N3O3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(1-methyl-1H-pyrazol-5-yl)isoxazole-3-carboxamide | Yield 28.2% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)C1=CC=NN1C | C21H18ClN7O2
